US05352678
Trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]-4-[(3-methoxyphenyl)methyl]piperazine
The title compound was prepared from trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]piperazine and 3-methoxybenzyl chloride by the method described in example 15 to give the product (67%, mp: 93°-96° C.). Calc'd for C25H32N2O3 : C, 73.50%; H, 7.90%; N, 6.86%. Found: C, 73.23%; H, 7.92%; N, 6.99%.

reactant | trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]piperazine | O1COC2=C1C=CC(=C2)[C@@H]2CC[C@H](CC2)N2CCNCC2 | C17H24N2O2
reactant | 3-methoxybenzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | Trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]-4-[(3-methoxyphenyl)methyl]piperazine | O1COC2=C1C=CC(=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)CC2=CC(=CC=C2)OC | C25H32N2O3
